US04199506
A mixture of 4.63 g (0.02 mole) of 2-chloro-4-trifluoromethyl-5-thiazolecarboxylic acid, 2.42 g (0.02 mole) of propargyl bromide, 2.59 g (0.02 mole) of diisopropylamine, and 50 ml. of methylene chloride was stirred for 16 hours. The methylene chloride solution was washed successively with diluted hydrochloric acid and saturated sodium bicarbonate, dried (MgSO4) and concentrated under reduced pressure. The residue was Kugelrohr distilled to give propargyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate as a colorless liquid.

reactant | 2-chloro-4-trifluoromethyl-5-thiazolecarboxylic acid | 0.02 mole, 4.63 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)O | C5HClF3NO2S
reactant | propargyl bromide | 0.02 mole, 2.42 g | C(C#C)Br | C3H3Br
reactant | diisopropylamine | 0.02 mole, 2.59 g | C(C)(C)NC(C)C | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | propargyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC#C | C8H3ClF3NO2S
